** sch_path: /foss/designs/engn1600-team1/CAD3/driver_cell.sch
.subckt driver_cell CLK WE WECLKb VDD VSS WECLK
*.PININFO CLK:I WE:I VSS:B VDD:B WECLKb:O WECLK:O
M13 WECLK net1 VDD VDD pfet_03v3 L=0.28u W='kWECLK*0.72u' nf=1 m=1
M14 WECLK net1 VSS VSS nfet_03v3 L=0.28u W='kWECLK*0.36u' nf=1 m=1
M1 WECLKb WECLK VDD VDD pfet_03v3 L=0.28u W='kWECLKb*0.72u' nf=1 m=1
M2 WECLKb WECLK VSS VSS nfet_03v3 L=0.28u W='kWECLKb*0.36u' nf=1 m=1
M3 net1 CLK VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M4 net1 WE VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M5 net2 WE VSS VSS nfet_03v3 L=0.28u W=0.72u nf=1 m=1
M6 net1 CLK net2 VSS nfet_03v3 L=0.28u W=0.72u nf=1 m=1
**** begin user architecture code


.param kWECLKb=1
.param kWECLK=1


**** end user architecture code
.ends
